data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
491,537,[CH3:1][O:2][C:3]#[C:4][C:5]#[N:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]([CH3:12])=[O+:13][C-:14]([C:15]([CH3:16])=[O:17])[C:18](=[O:19])[O:20][CH3:21]>>[CH3:1][O:2][C:3]1=[C:4]([C:5]#[N:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([CH3:12])[O:13][C:14]1([C:15]([CH3:16])=[O:17])[C:18](=[O:19])[O:20][CH3:21],water,298.15,16.256366278076836,-68.83284954729245
4918,5603,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][NH:8][C:9](=[O:10])[C:11](=[NH+:12][C-:13]([C:14]([CH3:15])=[O:16])[C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:13]([C:14]([CH3:15])=[O:16])([C:17](=[O:18])[O:19][CH3:20])[NH:12][C:11]1([C:9]([NH:8][CH3:7])=[O:10])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,38.09075833057946,2.223711202416901
956,1037,[CH3:13][C:14]([C:15]#[N:16])=[N+:17]([CH3:18])[C-:19]([C:20]#[N:21])[C:22]#[N:23].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:14]([CH3:13])([C:15]#[N:16])[N:17]([CH3:18])[C:19]2([C:20]#[N:21])[C:22]#[N:23],water,298.15,27.71252372111824,-7.82435319770692
4807,5486,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15]([CH3:16])=[NH+:17][C-:18]([C:19]#[N:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])([CH3:16])[NH:17][C:18]2([C:19]#[N:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,26.56368364917645,-13.258028949534244
2064,2291,[Br:1][C:2]1([c:3]2[cH:4][cH:5][cH:6][cH:7][cH:8]2)[C:9]#[C:10][CH2:11][CH2:12][CH2:13][CH2:14][CH2:15]1.[CH3:16][C:17](=[O:18])[N-:19][NH+:20]=[C:21]([C:22]([CH3:23])=[O:24])[C:25]([CH3:26])=[O:27]>>[Br:1][C:2]1([c:3]2[cH:4][cH:5][cH:6][cH:7][cH:8]2)[C:9]2=[C:10]([CH2:11][CH2:12][CH2:13][CH2:14][CH2:15]1)[C:21]([C:22]([CH3:23])=[O:24])([C:25]([CH3:26])=[O:27])[NH:20][N:19]2[C:17]([CH3:16])=[O:18],water,298.15,19.622118754371947,-37.57317332466243
718,779,[CH3:16][CH:17]=[NH+:18][C-:19]([C:20]#[N:21])[C:22]#[N:23].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7](=[O:8])[O:9][CH3:10])[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([C:7](=[O:8])[O:9][CH3:10])([CH:11]3[CH:12]=[CH:13][CH:14]1[O:15]3)[CH:17]([CH3:16])[NH:18][C:19]2([C:20]#[N:21])[C:22]#[N:23],water,298.15,20.115897941717,-12.733327816455358
4235,4845,[CH3:10][NH:11][C:12](=[O:13])[C:14](=[NH+:15][CH-:16][C:17]#[N:18])[C:19](=[O:20])[O:21][CH3:22].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:19](=[O:20])[O:21][CH3:22])[NH:15][CH:16]1[C:17]#[N:18],water,298.15,22.244636844585504,-16.40603000027112
97,109,[CH3:11][C:12](=[O:13])[CH:14]=[NH+:15][NH-:16].[CH3:1][C:2](=[O:3])[C:4]([C:5]([CH3:6])=[O:7])=[C:8]([CH3:9])[CH3:10]>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]([CH3:9])([CH3:10])[NH:16][NH:15][CH:14]1[C:12]([CH3:11])=[O:13],water,298.15,20.2603475751832,-7.378683899526405
511,558,[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][C:7]#[N:8].[CH3:9][NH:10][C:11](=[O:12])[CH:13]=[N+:14]([CH3:15])[C-:16]([CH3:17])[C:18](=[O:19])[NH:20][CH3:21]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[C:16]([CH3:17])([C:18](=[O:19])[NH:20][CH3:21])[N:14]([CH3:15])[CH:13]1[C:11]([NH:10][CH3:9])=[O:12],water,298.15,6.891272279465379,-62.21635883080774
2406,2672,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][C:12]([C:13]#[N:14])([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[CH2:21][CH2:22][CH2:23][CH2:24]1.[CH3:25][NH:26][C:27](=[O:28])[N:29]=[N+:30]([CH3:31])[N-:32][C:33]#[N:34]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]2=[C:11]([C:12]([C:13]#[N:14])([c:15]3[cH:16][cH:17][cH:18][cH:19][cH:20]3)[CH2:21][CH2:22][CH2:23][CH2:24]1)[N:32]([C:33]#[N:34])[N:30]([CH3:31])[N:29]2[C:27]([NH:26][CH3:25])=[O:28],water,298.15,21.758237823271504,-27.0936398678355
492,538,[CH3:1][O:2][C:3]#[C:4][C:5]#[N:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]([CH3:12])=[O+:13][C-:14]([C:15]([CH3:16])=[O:17])[C:18](=[O:19])[O:20][CH3:21]>>[CH3:1][O:2][C:3]1=[C:4]([C:5]#[N:6])[C:14]([C:15]([CH3:16])=[O:17])([C:18](=[O:19])[O:20][CH3:21])[O:13][C:11]1([C:9]([NH:8][CH3:7])=[O:10])[CH3:12],water,298.15,19.17491565241728,-69.18904211497609
1717,1900,[CH3:15][O:16][C:17](=[O:18])[C:19]#[N+:20][C-:21]([CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]#[C:7][C:8]([CH3:9])([CH3:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]2=[C:7]([C:8]([CH3:9])([CH3:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[C:19]([C:17]([O:16][CH3:15])=[O:18])=[N:20][C:21]2([CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,9.848465052207974,-64.72719141953749
